US07875722B2
7-[(3R)-3-(1-tert-Butoxycarbonylaminocyclopropyl)-pyrrolidin-1-yl]-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid
An acetonitrile solution (45 mL) containing 7-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-8-methoxy-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid (3 g), triethylamine hydrochloride (2.8 g), and boron trifluoride-tetrahydrofuran complex (2.84 g) was stirred at room temperature for 30 minutes. tert-Butyl {1-[(3R)-pyrrolidin-3-yl]cyclopropyl}carbamate oxalic acid salt (3.54 g) and triethylamine (5.71 mL) were further added to reaction mixture, followed by stirring for 10 hours at the same temperature. The solvent was evaporated under reduced pressure, and methanol (30 mL) was added to the residue. The mixture was refluxed for 12 hours, and the solvent was evaporated under reduced pressure. 80% Hydrated methanol (20 mL) was added to the residue, and the pH of the product was adjusted to 7 by use of 5N aqueous sodium hydroxide solution, followed by stirring at 60° C. for 30 minutes and at room temperature for 16 hours. The thus-produced crystals were recovered through filtration and dried, to thereby yield 4.79 g of the title compound (yield: 94%).

reactant | acetonitrile | 45 mL | C(C)#N | C2H3N
reactant | 7-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-8-methoxy-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid | 3 g | FC1=CC=C2C(C(=CN(C2=C1OC)[C@H]1[C@H](C1)F)C(=O)O)=O | C14H11F2NO4
reactant | triethylamine hydrochloride | 2.8 g | Cl.C(C)N(CC)CC
reactant | tert-Butyl {1-[(3R)-pyrrolidin-3-yl]cyclopropyl}carbamate oxalic acid salt | 3.54 g | C(C(=O)O)(=O)O.N1C[C@@H](CC1)C1(CC1)NC(OC(C)(C)C)=O
solvent | triethylamine | 5.71 mL | C(C)N(CC)CC | C6H15N
product | 7-[(3R)-3-(1-tert-Butoxycarbonylaminocyclopropyl)-pyrrolidin-1-yl]-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | yield 4.79 g, yield: 94% | C(C)(C)(C)OC(=O)NC1(CC1)[C@H]1CN(CC1)C1=CC=C2C(C(=CN(C2=C1OC)[C@H]1[C@H](C1)F)C(=O)O)=O | C26H32FN3O6
